US05578634
1-[(4-Chlorophenyl)methyl]-5-hydroxy-2-methyl-1H-indole-3-acetic acid methyl ester. Using the methods in Example 63, Part C, 1.2 g (3.5 mmol) of 1-[(4-chlorophenyl)methyl]-5-methoxy-2-methyl-1H-indole-3-acetic acid was treated with 15 mL of 1M BBr3 in CH2Cl2 to give crude 1-[(4-chlorophenyl)-methyl]-5-hydroxy-2-methyl-1H-indole-3-acetic acid which was treated with sulfuric acid in MeOH to give 1.2 g of 1-[(4-chlorophenyl)methyl]-5-hydroxy-2-methyl-1H-indole-3-acetic acid methyl ester.

reactant | 1-[(4-Chlorophenyl)methyl]-5-hydroxy-2-methyl-1H-indole-3-acetic acid methyl ester | COC(CC1=C(N(C2=CC=C(C=C12)O)CC1=CC=C(C=C1)Cl)C)=O | C19H18ClNO3
reactant | 1-[(4-chlorophenyl)methyl]-5-methoxy-2-methyl-1H-indole-3-acetic acid | 3.5 mmol, 1.2 g | ClC1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)OC)CC(=O)O)C | C19H18ClNO3
reactant | BBr3 | 1M, 15 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-[(4-chlorophenyl)-methyl]-5-hydroxy-2-methyl-1H-indole-3-acetic acid | ClC1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)O)CC(=O)O)C | C18H16ClNO3
